US09255090B2
Synthesis of [5-Fluoro-8-(5-hydroxy-2-methoxy-phenyl)-3,4-dihydro-1H-isoquinolin-2-yl]-((1R,2R)-2-phenyl-cyclopropyl)-methanone (C26H24NO3F, MW=417.17)
To a mixture under N2 of (8-bromo-5-fluoro-3,4-dihydro-1H-isoquinolin-2-yl)-((1R,2R)-2-phenyl-cyclopropyl)-methanone (289 mg, 0.76 mmol, 1.00 eq.), 5-hydroxy-2-methoxyphenylboronic acid (131 mg, 0.76 mmol, 1.00 eq.) and sodium carbonate (324 mg, 3.05 mmol, 4.00 eq.) in toluene/MeOH/water 20:4:1 (15 mL), tetrakis(triphenylphosphine) palladium (0) (44 mg, 0.04 mmol, 0.05 eq.) was added and the mixture was stirred at 100° C. for 62 hours. The mixture was allowed to cool to r.t. and concentrated in vacuo. The residue was partitioned between AcOEt (30 mL) and water (30 mL). The layers were separated. The org. phase was washed with sat. aq. NaCl soln. (1×15 mL), dried over MgSO4 and filtered through Celite. The filtrate was concentrated in vacuo. The residue was purified by flashmaster (column: 50 g, flow: 40 mL/min, 28 fractions of 40 mL, Heptane+10% AcOEt to Heptane+50% AcOEt) to yield the title product as a colorless oil.

reactant | (8-bromo-5-fluoro-3,4-dihydro-1H-isoquinolin-2-yl)-((1R,2R)-2-phenyl-cyclopropyl)-methanone | 0.76 mmol, 289 mg, 1.00 eq. | BrC=1C=CC(=C2CCN(CC12)C(=O)[C@H]1[C@@H](C1)C1=CC=CC=C1)F | C19H17BrFNO
reactant | 5-hydroxy-2-methoxyphenylboronic acid | 0.76 mmol, 131 mg, 1.00 eq. | OC=1C=CC(=C(C1)B(O)O)OC | C7H9BO4
reactant | sodium carbonate | 3.05 mmol, 324 mg, 4.00 eq. | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene MeOH water | 15 mL | C1(=CC=CC=C1)C.CO.O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.04 mmol, 44 mg, 0.05 eq. | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | [5-Fluoro-8-(5-hydroxy-2-methoxy-phenyl)-3,4-dihydro-1H-isoquinolin-2-yl]-((1R,2R)-2-phenyl-cyclopropyl)-methanone | FC1=C2CCN(CC2=C(C=C1)C1=C(C=CC(=C1)O)OC)C(=O)[C@H]1[C@@H](C1)C1=CC=CC=C1 | C26H24FNO3
